US04201584
Preparation of 2-benzyloxy-4,5-dimethoxy-nitrobenzene
When the formation of hydrogen had ceased (in about 30 min) 456 g (2 mole) of 1,2-dimethoxy-4,5-dinitrobenzene were added and the reaction mixture was refluxed for 2 h. To the solution, 4 l of methanol and 300 ml of water were added. Upon cooling in ice a precipitate was formed which was filtered off and dried. Yield: 369 g (64%); melting point: 141° C.

reactant | hydrogen | [H][H] | H2
reactant | 1,2-dimethoxy-4,5-dinitrobenzene | 2 mole, 456 g | COC1=C(C=C(C(=C1)[N+](=O)[O-])[N+](=O)[O-])OC | C8H8N2O6
reactant | methanol | 4 l | CO | CH4O
solvent | water | 300 ml | O | H2O
product | 2-benzyloxy-4,5-dimethoxy-nitrobenzene | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1)OC)OC)[N+](=O)[O-] | C15H15NO5
